US05068231
N-Butyl-3-[4-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide
A solution of 6.5 g (0.03 mole) of crude 3-[4-(trifluoromethyl)phenoxy]azetidine in 50 ml of isopropyl ether was stirred under a blanket of nitrogen while 4 g (0.04 mole) of n-butyl isocyanate was added dropwise. The reaction was slightly exothermic and after 30 min, a solid separated. The solid was collected by filtration after 3 hr to give 3.85 g of crystalline product, m.p. 135°-136° C. After 24 hr, a second batch of crystals was obtained; 1.5 g; m.p. 132°-134° C. The two fractions were combined and recrystallized from cyclohexane to yield 3.6 g of product (38%), m.p. 136°-137° C.

reactant | 3-[4-(trifluoromethyl)phenoxy]azetidine | 0.03 mole, 6.5 g | FC(C1=CC=C(OC2CNC2)C=C1)(F)F | C10H10F3NO
reactant | n-butyl isocyanate | 0.04 mole, 4 g | C(CCC)N=C=O | C5H9NO
solvent | isopropyl ether | 50 ml | C(C)(C)OC(C)C | C6H14O
product | N-Butyl-3-[4-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide | 3.85 g | C(CCC)NC(=O)N1CC(C1)OC1=CC=C(C=C1)C(F)(F)F | C15H19F3N2O2
